US09371320B2
G) 4-(3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide
To a solution of 4-(3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide (22.4 mg) in acetonitrile (10 mL) were added sodium iodide (18.0 mg) and chloro(trimethyl)silane (52.1 mg), and the mixture was stirred at 80° C. for 5 hr. To the reaction mixture was added water at room temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (20 mg).

reactant | 4-(3-cyclopentyl-7-methoxy-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide | 22.4 mg | C1(CCCC1)C1=NN(C2=C(N=CC=C21)OC)C2=CC=C(C=C2)S(=O)(=O)N | C18H20N4O3S
reactant | sodium iodide | 18.0 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 52.1 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-cyclopentyl-7-oxo-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)benzenesulfonamide | 20 mg | C1(CCCC1)C1=NN(C=2C(NC=CC21)=O)C2=CC=C(C=C2)S(=O)(=O)N | C17H18N4O3S
